US05516788
cis-4b,5,9b,10-Tetrahydro-8-iso-propylindeno[1,2-b]indole
5,10-Dihydro-8-iso-propylindeno [1,2-b]indole (5.27 g, 21.3 mmol) was stirred at room temperature in glacial acetic acid (100 cm3). Sodium cyanoborohydride (5 g, 3 equivalents) was added portionwise over a period of 30 minutes. The reaction was stirred for a further 30 minutes, and then poured into ice/water (150 cm3). After stirring for 30 minutes, the solution was neutralised with aqueous sodium hydroxide, and the colourless solid thus formed collected by filtration. This solid was washed copiously with water until the residue was free from cyanide ion and then dried in a vacuum oven to give the title compound as a colourless solid. Yield: 3.25 g (61%). M.p. 104° C. [from petrol (60°-80° C.)]. 1H NMR (CDCl3) δ: 1.19 (6H, d,), 2.80 (1H, septet,), 3.20 (1H, dd,), 3.48 (1H, dd,), 4.07 (1H, br,), 4.15 (1H, ddd,), 5.21 (1H, d,), 6.53 (1H, d,), 6.86 (1H, dd,), 7.03 (1H, s,), 7.1-7.4 (4H, m,).

reactant | 5,10-Dihydro-8-iso-propylindeno [1,2-b]indole | 21.3 mmol, 5.27 g | C(C)(C)C1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C18H17N
reactant | Sodium cyanoborohydride | 5 g, 3 equivalents | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
product | cis-4b,5,9b,10-Tetrahydro-8-iso-propylindeno[1,2-b]indole | C(C)(C)C1=CC=2[C@@H]3[C@H](NC2C=C1)C1=CC=CC=C1C3 | C18H19N
